US05646265
Cytidine (100 g, 0.41 mol) was dissolved in warm dimethylformamide (65° C., 1125 mL). The solution was cooled with stirring to 0° C. A slow, steady stream of nitrogen gas was delivered throughout the reaction. Sodium hydride (60% in oil, washed thrice with hexanes, 18 g, 0.45 mol) was added and the mixture was stirred at 0° C. for 45 min. A solution of methyl iodide (92.25 g, 40.5 mL, 0.65 mol) in dimethylformamide (400 mL) was added in portions over 4 h at 0° C. The mixture was stirred for 7 h at 25° C. and then filtered. The filtrate was concentrated to dryness under reduced pressure followed by co-evaporation with methanol (2×200 mL). The residue was dissolved in methanol (350 mL). The solution was adsorbed on silica gel (175 g) and evaporated to dryness. The mixture was slurried in dichloromethane (500 mL) and applied on top of a silica gel column (1 kg). The column was eluted with a gradient of dichloromethane-methanol (10:1→2:1). The less polar 2',3'-dimethyl side product was removed and the co-eluting 2' and 3'-O-methyl product containing fractions were combined and evaporated under reduced pressure to a syrup. The syrup was dissolved in a minimum of hot ethanol (ca. 150 mL) and allowed to cool to 25° C. The resulting precipitate (2' less soluble) was collected, washed with ethanol (2×25 ml) and dried to give 15.2 g of pure 2'-O-methylcytidine; mp 252°-254° C. mp 252°-254° C.); TLC homogenous (Rf 0.50, dichloromethane-methanol 3:1, (Rf of 3' isomer 0.50 and the dimethyl product 0.80). The filtrate was evaporated to give 18 g of a mixture of isomers and sodium iodide.

reactant | Cytidine | 0.41 mol, 100 g | [C@@H]1([C@H](O)[C@H](O)[C@@H](CO)O1)N1C(=O)N=C(N)C=C1 | C9H13N3O5
reactant | Sodium hydride | 0.45 mol, 18 g | [H-].[Na+]
reactant | methyl iodide | 0.65 mol, 40.5 mL, 92.25 g | CI | CH3I
solvent | dimethylformamide | 1125 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 400 mL | CN(C=O)C | C3H7NO
product | 2'-O-methylcytidine | 15.2 g | CO[C@H]1[C@@H](O[C@@H]([C@H]1O)CO)N1C(=O)N=C(N)C=C1 | C10H15N3O5
